US05296495
A solution of ethyl 2-bromomethylbenzoate (1.00 g) in tetrahydrofuran (10.0 ml) and triphenylphosphine (1.21 g) was heated under reflux for 8 hours. After being cooled, the resulting precipitates were collected by filtration and washed with tetrahydrofuran to give 2-ethoxycarbonylbenzyltriphenylphosphonium bromide (1.17 g).

reactant | ethyl 2-bromomethylbenzoate | 1.00 g | BrCC1=C(C(=O)OCC)C=CC=C1 | C10H11BrO2
reactant | triphenylphosphine | 1.21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 10.0 ml | O1CCCC1 | C4H8O
product | 2-ethoxycarbonylbenzyltriphenylphosphonium bromide | 1.17 g | [Br-].C(C)OC(=O)C1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | InChI=1S/C28H26O2P.BrH/c1-2-30-28(29)27-21-13-12-14-23(27)22-31(24-15-6-3-7-16-24,25-17-8-4-9-18-25)26-19-10-5-11-20-26;/h3-21H,2,22H2,1H3;1H/q+1;/p-1
